US08604108B2
At room temperature, 2.3 g (0.06 mol) of lithium aluminohydride in 100 ml of absolute diethyl ether in a three-neck flask equipped with stirrer, dropping funnel and high-performance condenser are, while continuously stirring, admixed with a solution of 22.0 g (0.1 mol) of butyl ethyl(2-methyl-2-formylethyl)phosphinate in 100 ml of diethyl ether added dropwise at such a rate that there is a moderate boil of the diethyl ether. On completion of the dropwise addition the reaction solution is refluxed for 1 hour and subsequently admixed with 1.8 g (0.1 mol) of water. The insoluble salts are filtered off. The solvent of the filtrate is removed in vacuo and the product is purified by chromatography to obtain 18.9 g (85% of theory) of butyl ethyl(2-methyl-3-hydroxypropyl)phosphinate as colorless oil.

reactant | lithium aluminohydride | 0.06 mol, 2.3 g | [AlH4-].[Li+]
reactant | butyl ethyl(2-methyl-2-formylethyl)phosphinate | 0.1 mol, 22.0 g | C(C)P(OCCCC)(=O)CC(C=O)C | C10H21O3P
reactant | water | 0.1 mol, 1.8 g | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | butyl ethyl(2-methyl-3-hydroxypropyl)phosphinate | 18.9 g, 85% | C(C)P(OCCCC)(=O)CC(CO)C | C10H23O3P
